US05527808
I. 9-Diphenylmethyl-10-azatricyclo[4.4.1.05.7 ]undecan-8-one
To a 100 mL three-neck round-bottomed flask equipped with a condenser and nitrogen inlet was added 0.71 mL (4.21 mmol) of a 3M solution of phenyl magnesium bromide in ether. The solution was cooled to 0° C. and a solution of 818 mg (3.24 mmol) 9-phenylmethylene-10-azatricyclo[4.4.1.05,7 ]undecan-8-one in 16 mL toluene was added. The reaction was warmed to room temperature, stirred for 2 hours, and then quenched with aqueous ammonium chloride solution. The reaction was extracted with ethyl acetate, and the organic layer was dried over sodium sulfate and evaporated. The residue was chromatographed on silica gel using hexane/ethyl acetate as eluent to afford an oil, 196 mg (18%). This material gave a solid from isopropanol, mp 178-181° C.

reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 9-phenylmethylene-10-azatricyclo[4.4.1.05,7 ]undecan-8-one | 3.24 mmol, 818 mg | C1(=CC=CC=C1)C=C1C(C2C3C2CCCC(N1)C3)=O | C17H19NO
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
product | 9-Diphenylmethyl-10-azatricyclo[4.4.1.05.7 ]undecan-8-one | C1(=CC=CC=C1)C(C1C(C2C3C2CCCC(N1)C3)=O)C3=CC=CC=C3 | C23H25NO
